US20010021718A1
Methyl 1-[(5-{(1R)-1-[2-(tert-butoxy)2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate
A solution of 1-[(5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylic acid (Preparation 41) (480 mg, 1.07 mmol) and N-methylmorpholine (130 μl, 1.17 mmol) in dichloromethane (10 ml) was cooled to 0° C. and then treated with isobutyl chloroformate (150 μl, 1.17 mmol). The mixture was stirred at 0° C. for 30 minutes then allowed to warm to room temperature over 1 hour. The mixture was quenched with methanol (5 ml) and the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and hydrochloric acid (1M). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (95:5) gradually changing to dichloromethane:ethyl acetate (90:10) to afford the title compound (230 mg)

reactant | 1-[(5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylic acid | 1.07 mmol, 480 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)O)=O | C23H35N3O6
reactant | N-methylmorpholine | 1.17 mmol, 130 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.17 mmol, 150 μl | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 1-[(5-{(1R)-1-[2-(tert-butoxy)2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate | 230 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)OC)=O | C24H37N3O6
